US06090836
Step D: Preparation of methyl 3,5-dipropyl-4-(3-(3-ethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)-propyloxy)phenylacetate
Using the method of Example 17, Step D, methyl 3,5-dipropyl-4-hydroxyphenylacetate and 1-bromo-3-(3-ethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)phenoxypropane as the starting material, the title compound was obtained.

reactant | methyl 3,5-dipropyl-4-hydroxyphenylacetate | C(CC)C=1C=C(C=C(C1O)CCC)CC(=O)OC | C15H22O3
reactant | 1-bromo-3-(3-ethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)phenoxypropane | BrC1(OCCC)CC(=CC=C1)OC=1C=CC=2C(=NOC2C1CCC)CC | C21H26BrNO3
product | methyl 3,5-dipropyl-4-(3-(3-ethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)-propyloxy)phenylacetate | C(CC)C=1C=C(C=C(C1OCCCOC=1C=CC=2C(=NOC2C1CCC)CC)CCC)CC(=O)OC | C30H41NO5
